US07115611B2
In analogy to the procedures described in example 26B] and 124C], 4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylamine (prepared from 4-trifluoromethyl-2-(4-trifluoromethyl-phenyl)-pyrimidine-5-carboxylic acid, see example 133], in analogy to the procedures described in examples 125B] and 125C]) was reacted with 2-(3-carboxymethyl-phenoxy)-2-methyl-propionic acid tert-butyl ester (prepared from (3-hydroxy-phenyl)-acetic acid methyl ester and tert-butyl alpha-bromoisobutyrate, in analogy to the procedure described in example 52A], followed by saponification in analogy the procedure described in example 124A]) to give 2-(3-{[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylcarbamoyl]-methyl}-phenoxy)-2-methyl-propionic acid tert-butyl ester, which was subsequently cleaved with trifluoroacetic acid to yield the title compound as light yellow amorphous solid.

reactant | 4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylamine | C1(CC1)C1=NC(=NC=C1N)C1=CC=C(C=C1)C(F)(F)F | C14H12F3N3
reactant | 4-trifluoromethyl-2-(4-trifluoromethyl-phenyl)-pyrimidine-5-carboxylic acid | FC(C1=NC(=NC=C1C(=O)O)C1=CC=C(C=C1)C(F)(F)F)(F)F | C13H6F6N2O2
reactant | 2-(3-carboxymethyl-phenoxy)-2-methyl-propionic acid tert-butyl ester | C(C)(C)(C)OC(C(C)(C)OC1=CC(=CC=C1)CC(=O)O)=O | C16H22O5
reactant | (3-hydroxy-phenyl)-acetic acid methyl ester | COC(CC1=CC(=CC=C1)O)=O | C9H10O3
reactant | tert-butyl alpha-bromoisobutyrate | BrC(C(=O)OC(C)(C)C)(C)C | C8H15BrO2
product | 2-(3-{[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylcarbamoyl]-methyl}-phenoxy)-2-methyl-propionic acid tert-butyl ester | C(C)(C)(C)OC(C(C)(C)OC1=CC(=CC=C1)CC(NC=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C1CC1)=O)=O | C30H32F3N3O4
